US04596870
1-Chloromethoxy-3-trifluoromethylbenzene
The title compound was prepared as described in Preparation 3 (b) by reaction of 1-(4-chlorophenylthio) methoxy-3-trifluoromethyl-benzene and sulfuryl chloride; yield 89%, b.p. 88°-90° C./15 mmHg. 1H NMR (CDCl3): δ 5.82 (CH2), 7.26 (Ph). MS [70 eV; m/z (% rel.int.)]: 212/210 (10/34,M); 191 (12), 175 (100), 145 (76), 133 (13), 127 (19), 114 (11), 113 (11).

reactant | 1-(4-chlorophenylthio) methoxy-3-trifluoromethyl-benzene | ClC1=CC=C(C=C1)SCOC1=CC(=CC=C1)C(F)(F)F | C14H10ClF3OS
reactant | sulfuryl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
product | 1-Chloromethoxy-3-trifluoromethylbenzene | yield 89% | ClCOC1=CC(=CC=C1)C(F)(F)F | C8H6ClF3O
